US06399603B1
3-(2-((3,4-Dichlorophenyl)amino)-4-hydroxy-6-nitroquinazolin-8-yl)propenoic acid.
A suspension of 2-((3,4-dichlorophenyl)amino)-4-hydroxy-6-nitroquinazoline-8-carbaldehyde (250 mg) and t-butylcarbonylmethylenetriphenylphosphorane (274 mg) in dichloromethane (15 mL) was stirred at room temperature for 3 h. The resulting solution was concentrated and the residue was dissolved in tetrahydrofuran (10 mL). Hydrochloric acid (1 N, 4 mL) was added, and the reaction was stirred at room temperature for 0.5 h. The solution was then evaporated to afford a brown solid, which was suspended in methanol (30 mL) and tetrahydrofuran (3 mL). The product was isolated by filtration, washed with methanol and dried to afford the title compound as a brown solid (71 mg). 1H NMR (300 MHz, DMSO-d6): 8.74 (bd, J=2.1 Hz, 1H), 8.64 (bd, J=1.8 Hz, 1H), 8.23 (m, 2H), 7.54 (m, 2H), 6.80 (d, J=16.2 Hz, 1H). HPLC Method A: 6.13 min. MS (APCI−): m/z 419, 421.

reactant | 2-((3,4-dichlorophenyl)amino)-4-hydroxy-6-nitroquinazoline-8-carbaldehyde | 250 mg | ClC=1C=C(C=CC1Cl)NC1=NC2=C(C=C(C=C2C(=N1)O)[N+](=O)[O-])C=O | C15H8Cl2N4O4
reactant | t-butylcarbonylmethylenetriphenylphosphorane | 274 mg | C(C)(C)(C)C(=O)C=P(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C24H25OP
reactant | methanol | 30 mL | CO | CH4O
solvent | dichloromethane | 15 mL | ClCCl | CH2Cl2
solvent | tetrahydrofuran | 3 mL | O1CCCC1 | C4H8O
product | 3-(2-((3,4-Dichlorophenyl)amino)-4-hydroxy-6-nitroquinazolin-8-yl)propenoic acid | 71 mg | ClC=1C=C(C=CC1Cl)NC1=NC2=C(C=C(C=C2C(=N1)O)[N+](=O)[O-])C=CC(=O)O | C17H10Cl2N4O5
